US04396626
Benzyl 3-oxo-4,4,4-trifluorobutyrate (D1)
Ethyl 3-oxo-4,4,4-trifluorobutyrate (25 g, 0.136 mole) was heated between 100° and 180° C. under nitrogen with benzyl alcohol (14 ml, 0.136 mole) for 3 hours, the ethanol formed being distilled from the reaction mixture. The resulting pale yellow oil was distilled under vacuum to give a colourless oil (26.1 g, 78%), b.p. 81°-82° C. at 0.20 mm Hg.

reactant | Ethyl 3-oxo-4,4,4-trifluorobutyrate | 0.136 mole, 25 g | O=C(CC(=O)OCC)C(F)(F)F | C6H7F3O3
reactant | benzyl alcohol | 0.136 mole, 14 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | ethanol | C(C)O | C2H6O
product | Benzyl 3-oxo-4,4,4-trifluorobutyrate | 26.1 g, 78% | O=C(CC(=O)OCC1=CC=CC=C1)C(F)(F)F | C11H9F3O3
